US05932601
In substantially the same manner as in Reference Example 16, 3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamaldehyde was allowed to react with trimethyl phosphonoacetate to produce methyl (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadienoate, which was recrystallized from ethyl acetate to give colorless prisms, m.p.166-167° C.

reactant | 3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamaldehyde | COC=1C=C(C=CC=O)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H19NO4
reactant | trimethyl phosphonoacetate | COC(=O)CP(=O)(OC)OC | C5H11O5P
product | methyl (E,E)-5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadienoate | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)/C=C/C=C/C(=O)OC | C24H23NO5
